US04248869
To a solution of methyl 2-methoxy-4-methyl-5-aminobenzoate (975 mg) in tetrahydrofuran (5 ml) are added triethylamine (1.52 g) and carbon disulfide (1.14 g), and the resultant mixture is stirred at room temperature for 2.5 hours. Ethyl chlorocarbonate (1.63 g) is added to the mixture, which is stirred for additional 20 minutes at room temperature. A solution of sodium hydroxide (1.2 g) in water (32 ml) is added to the mixture, which is stirred for 15 minutes. The reaction mixture is mixed with an excess amount of water and shaken with methylene chloride. The organic layer is dried over Glauber's salt and the solvent is evaporated. The residue is dissolved in methylene chloride and chromatographed on a column of silica gel. Evaporating the solvent from the elution, the residue is dissolved in isopropyl ether and n-hexane is added thereto. The precipitated crystals are filtered to give 3-methoxycarbonyl-4-methoxy-6-methylphenyl isothiocyanate (952 mg) as crystals melting at 86°-87.5° C.

reactant | methyl 2-methoxy-4-methyl-5-aminobenzoate | 975 mg | COC1=C(C(=O)OC)C=C(C(=C1)C)N | C10H13NO3
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chlorocarbonate | 1.63 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | carbon disulfide | 1.14 g | C(=S)=S | CS2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 32 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-methoxycarbonyl-4-methoxy-6-methylphenyl isothiocyanate | 952 mg | COC(=O)C=1C=C(C(=CC1OC)C)N=C=S | C11H11NO3S
